US03975528
Preparation of 2-(Phenylthiomethylimino)-1,3-dithietane
To a mixture of 28.2 g. of methylene bromide and 10.9 g. of triethylamine in 250 ml. of dimethylformamide was added, in portions, 27.3 g. of potassium phenylthiomethyldithiocarbamate keeping the reaction temperature below 30°C. by cooling. After another 2 hours, the mixture was poured into water and extracted with ethylene chloride. The ethylene chloride mixture was washed with water, dried, and saturated with dry hydrogen chloride. The resulting salt was collected by filtration and washed with acetone. The salt, on stirring with a mixture of 100 ml. of water and 300 ml. of chloroform, dissolved and removal and concentration of the chloroform layer gave 8.5 g. of the dithietane as a white solid, m.p. 50°-52°C.

reactant | methylene bromide | C(Br)Br | CH2Br2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | potassium phenylthiomethyldithiocarbamate | C1(=CC=CC=C1)SCNC([S-])=S.[K+]
reactant | dithietane | S1SCC1 | C2H4S2
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(Phenylthiomethylimino)-1,3-dithietane | C1(=CC=CC=C1)SCN=C1SCS1 | C9H9NS3
